US05512646
330 g of DMAPAA.
CH3CL/dimethylaminopropylacrylamide, quaternized with methyl chloride, and 29 g of acrylamide were added to 541 g of water with 200 mg azo-bisisobutyroamidine (AIBA) and after passage of nitrogen therethrough, the mixture was irradiated for 30 minutes by an Osram HWL 250-W lamp. The gel so obtained was dried to a residual water content of 9% and ground.

reactant | dimethylaminopropylacrylamide | CN(C)CCCC(C(=O)N)=C | C8H16N2O
reactant | methyl chloride | CCl | CH3Cl
reactant | acrylamide | 29 g | C(C=C)(=O)N | C3H5NO
reactant | azo-bisisobutyroamidine | 200 mg | N(=NC(C(=N)N)(C)C)C(C(=N)N)(C)C | C8H18N6
reactant | water | 541 g | O | H2O
product | DMAPAA | CN(C)C1=CC=C(C=C1)CC(=O)O | C10H13NO2
